US05104890
A mixture of trans-4-(2-cyanoiminothiazolidin-3-yl)-3,4-dihydro-3-hydroxy-6-mesyl-2,2-dimethyl-2H-1-benzopyran (5.5 g) and acetic anhydride (25 ml) in pyridine (50 ml) was allowed to stand at room temperature overnight. The mixture was concentrated to give a residue of trans-3-acetoxy-4-[2-(cyanoimino)thiazolidin-3-yl]-3,4-dihydro-6-mesyl-2,2-dimethyl-2H-1-benzopyran, which was washed with diisopropyl ether and dried in vacuo. To a suspension of this residue in toluene (21 ml) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (10.5 ml), and the mixture was stirred at 100° C. for 1 hour. After cooling, the reaction mixture was poured into water, extracted with ethyl acetate, washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel chromatography using ethyl acetate as an eluent to afford 4-(2-cyanoiminothiazolidin-3-yl)-6-mesyl-2,2-dimethyl-2H-1-benzopyran as a white solid. Recrystallization from 50% aqueous acetonitrile gave the pure product (1.44 g).

reactant | trans-4-(2-cyanoiminothiazolidin-3-yl)-3,4-dihydro-3-hydroxy-6-mesyl-2,2-dimethyl-2H-1-benzopyran | 5.5 g | C(#N)N=C1SCCN1[C@H]1[C@@H](C(OC2=C1C=C(C=C2)S(=O)(=O)C)(C)C)O | C16H19N3O4S2
reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | trans-3-acetoxy-4-[2-(cyanoimino)thiazolidin-3-yl]-3,4-dihydro-6-mesyl-2,2-dimethyl-2H-1-benzopyran | C(C)(=O)O[C@@H]1C(OC2=C([C@H]1N1C(SCC1)=NC#N)C=C(C=C2)S(=O)(=O)C)(C)C | C18H21N3O5S2
